US08334292B1
Step 2: Preparation of tert-butyl 4-((2-(cis-4-methylcyclohexylamino)-5-bromopyrimidin-4-yloxy)methyl)piperidine-1-carboxylate
Using the procedure of Example 1 Step 2 tert-butyl 4-((5-bromo-2-chloropyrimidin-4-yloxy)methyl)piperidine-1-carboxylate was reacted with cis-4-methylcyclohexanamine to provide the title compound in 50% yield. 1H NMR (CDCl3, 400 MHz) 8.05 (s, 1H), 5.10 (sb, 1H), 4.15 (m, 4H), 3.96 (m, 1H), 2.71 (m, 2H), 1.95 (m, 1H), 1.78-1.48 (m, 9H), 1.44 (s, 9H), 1.28-1.16 (m, 3H), 0.91 (d, 3H); MS (ESI) m/z: Calc: 482.2 (M+). Found. 484.2 (M++2).

reactant | tert-butyl 4-((5-bromo-2-chloropyrimidin-4-yloxy)methyl)piperidine-1-carboxylate | BrC=1C(=NC(=NC1)Cl)OCC1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrClN3O3
reactant | cis-4-methylcyclohexanamine | C[C@H]1CC[C@H](CC1)N | C7H15N
product | tert-butyl 4-((2-(cis-4-methylcyclohexylamino)-5-bromopyrimidin-4-yloxy)methyl)piperidine-1-carboxylate | 50% yield | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OCC1CCN(CC1)C(=O)OC(C)(C)C)Br | C22H35BrN4O3
